US03985710
n-Butyl mercaptan (1 mole) was stirred with 80-100 petroleum ether (150 ml) at 10° C and piperidine catalyst (0.02 gm) was added. To this, acrolein (1 mole) was added dropwise over a period of 2 hours. The reaction mixture was allowed to warm up to room temperature whereupon stirring was continued for a further 36 hours. The mixture was then distilled under reduced pressure to yield a β-n-butylmercaptopropionaldehyde fraction (0.92 mole) having a boiling range 55°-57° C at a pressure of 1-2 mm of Hg. The reaction mixture was maintained under a blanket of nitrogen at all time throughout the preparation.

reactant | n-Butyl mercaptan | 1 mole | C(CCC)S | C4H10S
reactant | acrolein | 1 mole | C(=O)C=C | C3H4O
catalyst | piperidine | 0.02 gm | N1CCCCC1 | C5H11N
product | β-n-butylmercaptopropionaldehyde | C(CCC)SCCC=O | C7H14OS
